US06265426B1
Dimethyl-{3-[5-(4-trifluoromethyl-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-amine hydrochloride (1:1) (mixture of tautomers)
To an ethanolic suspension of 4-trifluoromethyl-benzimidic acid ethyl ester hydrochloride salt (761 mg, 3.0 mmol, 1.5 eq.) was added sodium methoxide (162 mg, 3 mmol) in ethanol (20 ml.) and the resulting mixture stirred for 30 min.at r.t. 3-dimethylaminomethyl-benzoic acid hydrazide (386 mg, 2.0 mmol) in ethanol was then added at 20° C., followed by heating to reflux for 16 hrs. Upon cooling, the product mixture was filtered, solvent was evaporated and the residue subjected to preparative reversed-phase HPLC purification using a YMC ODS-AQ column (20×50 mm) and a (0.1% trifluoroacetic acid) water-acetonitrile gradient (25 ml/min. flow rate). The pure fractions were concentrated and the product obtained was converted to the hydrochloride salt in ether by addition of excess 5N HCl/iPrOH solution (1 ml) followed by solvent evaporation and high vacuum drying to afford the title compound (79 mg, 0.21 mmol, 10% yield) as a white foam. MS: m/e=347.4 (M+H+).

reactant | 4-trifluoromethyl-benzimidic acid ethyl ester hydrochloride salt | 3.0 mmol, 761 mg, 1.5 eq. | Cl.C(C)OC(C1=CC=C(C=C1)C(F)(F)F)=N
reactant | sodium methoxide | 3 mmol, 162 mg | C[O-].[Na+]
reactant | 3-dimethylaminomethyl-benzoic acid hydrazide | 2.0 mmol, 386 mg | CN(C)CC=1C=C(C(=O)NN)C=CC1 | C10H15N3O
reactant | HCl iPrOH | 5N, 1 ml | Cl.CC(C)O
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | Dimethyl-{3-[5-(4-trifluoromethyl-phenyl)-1H-[1,2,4]triazol-3-yl]-benzyl}-amine hydrochloride | 0.21 mmol, 79 mg, 10% yield | Cl.CN(CC1=CC(=CC=C1)C1=NNC(=N1)C1=CC=C(C=C1)C(F)(F)F)C | InChI=1S/C18H17F3N4.ClH/c1-25(2)11-12-4-3-5-14(10-12)17-22-16(23-24-17)13-6-8-15(9-7-13)18(19,20)21;/h3-10H,11H2,1-2H3,(H,22,23,24);1H
